US04380548
A mixture of 39.0 g (0.3 M) 4,4-dimethylimidazolidine-2-thione, 44.2 g (0.3 M) 2,6-dimethylphenyl isocyanate and 100 ml dimethylformamide was refluxed with stirring for 24 hours. After cooling to room temperature, the solution was filtered from a small amount of insoluble solid and poured into 300 ml water with efficient stirring. The precipitated product was filtered, washed well with water, and dried in vacuo. Yield 62.6 g, mp 228°-231° C. Recrystallization from 600 ml of boiling methanol yielded 46 g of N-(2,6-dimethylphenyl)-4,4-dimethyl-2-thioxo-1-imidazolidinecarboxamide as white crystalline product, mp 241.5°-243° C. A small sample was recrystallized from benzene to give an analytical sample, mp 245.5°-246° C.

reactant | 4,4-dimethylimidazolidine-2-thione | 0.3 M, 39.0 g | CC1(NC(NC1)=S)C | C5H10N2S
reactant | 2,6-dimethylphenyl isocyanate | 0.3 M, 44.2 g | CC1=C(C(=CC=C1)C)N=C=O | C9H9NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-(2,6-dimethylphenyl)-4,4-dimethyl-2-thioxo-1-imidazolidinecarboxamide | 46 g | CC1=C(C(=CC=C1)C)NC(=O)N1C(NC(C1)(C)C)=S | C14H19N3OS
